US08076491B2
1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine (419 mg, 2.18 mmol) and 2-chloroethyl isocyanate (230 mg, 2.18 mmol) in acetonitrile (5 mL) were heated at 65° C. for 16 hours. The reaction was cooled to room temperature and concentrated on the rotovap. The residue was purified by silica column chromotography (100% to 90% dichloromethane in methanol: 30 minute gradient), dried and triturated with ethyl acetate/hexanes (1/9) to afford (1-(2-chloroethyl)-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)urea (258 mg, 40%) as a yellow solid. MS M+H calculated 298.10; found 298.1

reactant | 1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-amine | 2.18 mmol, 419 mg | CC1=NOC(=C1CN1N=CC(=C1)N)C | C9H12N4O
reactant | 2-chloroethyl isocyanate | 2.18 mmol, 230 mg | ClCCN=C=O | C3H4ClNO
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 1-(2-chloroethyl)-3-(1-((3,5-dimethylisoxazol-4-yl)methyl)-1H-pyrazol-4-yl)urea | 258 mg, 40% | ClCCNC(=O)NC=1C=NN(C1)CC=1C(=NOC1C)C | C12H16ClN5O2
